US06979370B2
Preparation of AlH(CH2CH2CH2NMe2)2
A dried flask is charged with AlH3.NEtMe2 (6.60 g, 64 mmol) under an inert atmosphere (e.g., argon) and then 50 mL of diethyl ether. The resulting slurry is cooled to −70° C. and a solution of LiCH2CH2CH2NMe2 (260 mL of 0.5 M solution in diethyl ether) is added. The resulting mixture is allowed to warm slowly to room temperature and stirred for 18 hours. The solvent is then removed in vacuo and the crude product is transferred to a smaller distillation apparatus for purification by distillation under vacuum.

reactant | AlH3 | [AlH3]
reactant | NEtMe2 | 64 mmol, 6.60 g | N(CC)(C)C | C4H11N
reactant | LiCH2CH2CH2NMe2 | 0.5 M, 260 mL | [Li]CCCN(C)C
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | AlH(CH2CH2CH2NMe2)2 | [AlH](CCCN(C)C)CCCN(C)C | InChI=1S/2C5H12N.Al.H/c2*1-4-5-6(2)3;;/h2*1,4-5H2,2-3H3;;
